US05977152
(2R,3R)-2-(2,4-Difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-3-[[trans-4-[(1E,3E)-4-[4-(trifluoromethyl)phenyl]-1,3-butadien-1-yl]cyclohexyl]thio]-2-butanol
Reaction was carried out in the same manner as in Example 1 using (2R,3S)-2-(2,4-difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane and trans-1-(acetylthio)-4-[(1E,3E)-4-[4-(trifluoromethyl)phenyl]-1,3-butadien-1-yl]cyclohexane as described in Reference example 43 to obtain the title compound having a melting point of 74 to 76° C. in a yield of 59%.

reactant | (2R,3S)-2-(2,4-difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane | FC1=C(C=CC(=C1)F)[C@@]1(O[C@H]1C)CN1N=CN=C1 | C12H11F2N3O
reactant | trans-1-(acetylthio)-4-[(1E,3E)-4-[4-(trifluoromethyl)phenyl]-1,3-butadien-1-yl]cyclohexane | C(C)(=O)S[C@@H]1CC[C@H](CC1)\C=C\C=C\C1=CC=C(C=C1)C(F)(F)F | C19H21F3OS
product | (2R,3R)-2-(2,4-Difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-3-[[trans-4-[(1E,3E)-4-[4-(trifluoromethyl)phenyl]-1,3-butadien-1-yl]cyclohexyl]thio]-2-butanol | yield of 59% | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)S[C@@H]1CC[C@H](CC1)\C=C\C=C\C1=CC=C(C=C1)C(F)(F)F)O | C29H30F5N3OS
